US08466289B2
Synthesis of Intermediate butyl 3-(benzyloxy)cyclobutane-1-sulfonate (I-25a)
60% NaH (0.95 g, 2.52 (CH2)2CH3 mmol) was added to a cooled solution of butyl 3-hydroxycyclobutane-1-sulfonate (0.35 g, 1.68 mmol) in dry THF (20 mL) at 0° C. and the resulting reaction mass was stirred at room temperature for 30 minutes. This was followed by the addition of benzyl bromide (0.43 g, 2.52 mmol) and stirred the resulting mixture at room temperature for 2 hours. The reaction was monitored by TLC (20% ethyl acetate in hexane). The reaction mixture was quenched with ice-water and extracted using ethyl acetate. The organic layer was washed with brine solution, dried over Na2SO4 and concentrated. Purification by column chromatography on silica gel (4% ethyl acetate in hexane) afforded 0.2 g of the product (50% yield).

reactant | NaH | 0.95 g | [H-].[Na+]
reactant | butyl 3-hydroxycyclobutane-1-sulfonate | 1.68 mmol, 0.35 g | OC1CC(C1)S(=O)(=O)OCCCC | C8H16O4S
reactant | benzyl bromide | 2.52 mmol, 0.43 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | butyl 3-(benzyloxy)cyclobutane-1-sulfonate | 0.2 g, 50% yield | C(C1=CC=CC=C1)OC1CC(C1)S(=O)(=O)OCCCC | C15H22O4S
